US05948803
5-(2,4-Dioxothiazolidin-5-yl)-2-methoxybenzoic acid
To a solution of methyl 5-(1-chloro-1-cyanomethyl)-2-methoxybenzoate (2.37 g) in ethanol (30 ml) was added thiourea (910 mg), and the mixture was refluxed for 3 hours. After cooling, 3 N hydrochloric acid (30 ml) was added, which was refluxed for 16 hours. After cooling, the reaction mixture was poured into water, which was extracted with ethyl acetate. After washing with water, the extract was dried over anhydrous sodium sulfate.

reactant | methyl 5-(1-chloro-1-cyanomethyl)-2-methoxybenzoate | 2.37 g | ClC(C#N)C=1C=CC(=C(C(=O)OC)C1)OC | C11H10ClNO3
reactant | thiourea | 910 mg | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 3 N, 30 ml | Cl | ClH
reactant | water | O | H2O
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 5-(2,4-Dioxothiazolidin-5-yl)-2-methoxybenzoic acid | O=C1SC(C(N1)=O)C=1C=CC(=C(C(=O)O)C1)OC | C11H9NO5S
